US07915250B2
4-[(2-fluoro-4-iodophenyl)amino]thiophene-3-carboxylic acid (200 mg, 0.551 mmol), 4-(dimethylamino)pyridine (202 mg, 1.65 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (127 mg, 0.662 mmol) were dissolved in DMF (3 mL). The mixture was stirred at ambient for 5 minutes and then 3-(hydroxymethyl)azetidin-3-ol hydrochloride (72 mg, 0.516 mmol) was added and the mixture was stirred for 15 h. The mixture was partitioned between ethyl acetate and 20% citric acid. The aqueous portion was extracted with ethyl acetate. The combined organic portion was washed with 5% lithium chloride, saturated sodium bicarbonate and brine, then was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was crystallized from dichloromethane to afford 1-({4-[(2-fluoro-4-iodophenyl)amino]-3-thienyl}carbonyl)-3-(hydroxymethyl)azetidin-3-ol (247 mg, 0.551 mmol, quantitative yield) as off-white crystals: MS (EI) for C15H14FIN2O3S: 449 (MH+).

reactant | 4-[(2-fluoro-4-iodophenyl)amino]thiophene-3-carboxylic acid | 0.551 mmol, 200 mg | FC1=C(C=CC(=C1)I)NC=1C(=CSC1)C(=O)O | C11H7FINO2S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.662 mmol, 127 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-(hydroxymethyl)azetidin-3-ol hydrochloride | 0.516 mmol, 72 mg | Cl.OCC1(CNC1)O
catalyst | 4-(dimethylamino)pyridine | 1.65 mmol, 202 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-({4-[(2-fluoro-4-iodophenyl)amino]-3-thienyl}carbonyl)-3-(hydroxymethyl)azetidin-3-ol | 0.551 mmol, 247 mg, quantitative yield | FC1=C(C=CC(=C1)I)NC=1C(=CSC1)C(=O)N1CC(C1)(O)CO | C15H14FIN2O3S
